US07375136B2
2-Nitrophenol (0.92 g, 6.6 mmol) was dissolved in 5 ml anhydrous DMF. Cesium fluoride (3.02 g, 19.9 mmol) was added to the reaction. The reaction mixture was stirred for 1 hour at room temperature and (S)-glycidyl nosylate (1.71 g, 6.6 mmol) was added. The reaction was stirred for 16 hours at room temperature. Water (150 ml) was added, and the solution was extracted with ethylacetate. The organic phase was dried over MgSO4 and evaporated. The residue was purified with column chromatograph using ethylacetate:hexane (50:50) solvent to give (S)-glycidyl o-nitrophenyl ether (1.21 g, 90% yield, m.p. 46-47° C.) as a white solid.

reactant | 2-Nitrophenol | 6.6 mmol, 0.92 g | [N+](=O)([O-])C1=C(C=CC=C1)O | C6H5NO3
reactant | Cesium fluoride | 19.9 mmol, 3.02 g | [F-].[Cs+]
reactant | (S)-glycidyl nosylate | 6.6 mmol, 1.71 g | S(=O)(=O)(OC[C@@H]1CO1)C1=CC=C([N+](=O)[O-])C=C1 | C9H9NO6S
reactant | Water | 150 ml | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | (S)-glycidyl o-nitrophenyl ether | 1.21 g, 90% yield | [N+](=O)([O-])C1=C(C=CC=C1)OC[C@@H]1CO1 | C9H9NO4
